* source BASIC
X_M1         INPUT OUTPUT STATE MEMRISTOR
R_R1         OUTPUT 0  1k TC=0,0 
R_R2         STATE N00164  1G TC=0,0 
V_V1         N00164 0 0.5Vdc
V_V2         INPUT 0  
+SIN 0 1Vdc 500Hz 0 0 0
