* source IMPLY NOR
X_M1         N00124 N00136 N00547 MEMRISTOR
X_M2         N00128 N00128 N00433 MEMRISTOR
X_M3         N00132 N00142 N00236 MEMRISTOR
R_R1         0 N00128  5k TC=0,0 
R_R2         N00236 N00323  1G TC=0,0 
V_V1         N00323 0 0.5Vdc
V_V2         N00473 0 0.5Vdc
R_R3         N00433 N00473  1G TC=0,0 
V_V3         N00587 0 0.5Vdc
R_R4         N00547 N00587  1G TC=0,0 
V_V4         N00124 0 2..5Vdc
V_V5         N00128 0 2.5Vdc
V_V6         N00132 0 1Vdc
R_R5         0 N00142  5k TC=0,0 
R_R6         0 N00136  5k TC=0,0 
R_R7         N00128 N00142  0.0001k TC=0,0 
R_R8         N00136 N00128  0.0001k TC=0,0 
