* source IMPLY OR
V_V18         N09360 0 0.5Vdc
R_R7         0 VSET  5k TC=0,0 
V_V1         N09296 0 0.5Vdc
V_V17         VCOND 0 0.5Vdc
X_M4         VSET VSET STATEP MEMRISTOR
V_V16         VSET 0 1Vdc
X_M5         VSET VCOND STATEQ MEMRISTOR
R_R8         STATEQ N09360  1G TC=0,0 
R_R2         STATEP N09296  1G TC=0,0 
