* source IMPLY
V_V18         N07656 0 0.5Vdc
X_M4         N07442 VCOND STATEP MEMRISTOR
V_V17         VSET 0 1Vdc
R_R8         STATEQ N07656  1G TC=0,0 
V_V1         N07584 0 0.5Vdc
V_V16         VCOND 0 0.5Vdc
X_M5         N07442 VSET STATEQ MEMRISTOR
R_R2         STATEP N07584  1G TC=0,0 
R_R7         0 N07442  5k TC=0,0 
R_R9         N07442 VSET  0.0001k TC=0,0 
R_R10         VCOND N07442  0.0001k TC=0,0 
