* source LOGIC GATES
X_M1         INPUT N00102 N05933 MEMRISTOR
X_M2         N00102 N00102 N05941 MEMRISTOR
X_M3         N00102 OUTPUT OUT1 MEMRISTOR
R_R3         OUT1 N00357  1G TC=0,0 
V_V3         N00357 0 0.5Vdc
R_R4         OUTPUT 0  1k TC=0,0 
V_V13         N05937 0 0.5Vdc
V_V14         N05945 0 0.5Vdc
V_V15         INPUT 0 -2.3Vdc
R_R5         N05933 N05937  1G TC=0,0 
R_R6         N05941 N05945  1G TC=0,0 
