* source MAGIC AND
X_M1         N00994 N00926 STATE MEMRISTOR
X_M2         N00926 N00930 STATE MEMRISTOR
X_M3         N00930 0 STATE MEMRISTOR
R_R2         STATE N00484  1G TC=0,0 
V_V1         N00484 0 0.5Vdc
V_V2         N00619 0 0.5Vdc
R_R3         STATE N00619  1G TC=0,0 
R_R4         STATE N00756  1G TC=0,0 
V_V3         N00756 0 0.5Vdc
V_V4         N00994 0 -2.3Vdc
