* source MAGIC NOR
X_M1         N11245 N11168 N11463 MEMRISTOR
X_M2         N11245 N11168 N11467 MEMRISTOR
X_M3         0 N11168 N12610 MEMRISTOR
V_V1         N11245 0 1Vdc
R_R1         N11490 N11467  1G TC=0,0 
R_R2         N11463 N11459  1G TC=0,0 
V_V2         N11459 0 0.5Vdc
V_V3         N11490 0 0.5Vdc
V_V4         N12604 0 1Vdc
R_R3         N12610 N12604  1k TC=0,0 
