* source MAGIC NOT
X_M1         N00087 N00087 STATE MEMRISTOR
X_M2         0 N00087 STATE MEMRISTOR
V_V1         N00363 0 0.5Vdc
R_R2         STATE N00363  1G TC=0,0 
R_R3         STATE N00498  1G TC=0,0 
V_V2         N00498 0 0.5Vdc
V_V4         N00087 0 1Vdc
