* source MAGIC OR
X_M1         N00115 N00115 N00139 MEMRISTOR
X_M2         N01737 N00115 N00143 MEMRISTOR
X_M3         N00115 N00340 N00210 MEMRISTOR
R_R1         N00139 N001660  1G TC=0,0 
R_R2         N001841 N00143  1G TC=0,0 
R_R3         N002021 N00210  1G TC=0,0 
V_V1         N001660 0 0.5Vdc
V_V2         N001841 0 0.5Vdc
V_V3         N002021 0 0.5Vdc
V_V4         N00115 0 1Vdc
R_R4         N00340 0  5k TC=0,0 
V_V5         N01737 0 1Vdc
